US06348468B1
Preparation of 2-benzyl-5-(3-fluoro-4-methoxyphenyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 5-(3-fluoro-4-methoxyphenyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one and benzyl bromide as starting materials, the procedures of Example 12 were repeated likewise, whereby the title compound was obtained in a yield of 95.6%.

reactant | 5-(3-fluoro-4-methoxyphenyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C1=CC(NN=C1C1=CC=C(C=C1)OC)=O | C18H15FN2O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-benzyl-5-(3-fluoro-4-methoxyphenyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 95.6% | C(C1=CC=CC=C1)N1N=C(C(=CC1=O)C1=CC(=C(C=C1)OC)F)C1=CC=C(C=C1)OC | C25H21FN2O3
